US05576324
5-Hydroxy-3,4,8-trimethylcarbostyril:
N-(5-ethoxy-2-methylphenyl)-2-oxo-3-methylbutanamide (8.8 g, 35.3 mmol) was dissolved in m-dichlorobenzene (100 ml). Aluminum chloride (20.6 g, 155 mmol) was added to the solution, and the mixture was placed in a bath of 100° C. and stirred for 1.5 hours. The reaction mixture was poured in ice--water, and the precipitate was collected by filtration. To the filtrate, a mixture of chloroform--methanol (5:1) was added. The organic phase was extracted, and dried. The solvent was distilled off under reduced pressure. The resultant residue was recrystallized from methanol--ether to obtain 3.3 g in total of the title compound as yellow powder (46.2%).

reactant | N-(5-ethoxy-2-methylphenyl)-2-oxo-3-methylbutanamide | 35.3 mmol, 8.8 g | C(C)OC=1C=CC(=C(C1)NC(C(C(C)C)=O)=O)C | C14H19NO3
reactant | Aluminum chloride | 155 mmol, 20.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-dichlorobenzene | 100 ml | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | 5-Hydroxy-3,4,8-trimethylcarbostyril | 46.2% | OC1=C2C(=C(C(NC2=C(C=C1)C)=O)C)C | C12H13NO2
